US05476849
The 3-hydroxy-4-nitrobenzoic acid starting material is acetylated using, for instance, acetic anhydride and pyridine at reflux temperatures for 1-4 hours to afford 3-acetoxy-4-nitrobenzoic acid. This compound is then dissolved in a non-polar, aprotic solvent, such as benzene or toluene, and refluxed with thionyl chloride for a period of about 2-6 hours to form the desired 3-acetoxy-4-nitrobenzoyl chloride.

reactant | 3-hydroxy-4-nitrobenzoic acid | OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H5NO5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-4-nitrobenzoic acid | C(C)(=O)OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H7NO6
